US07973051B2
i) 4-Ethyl-5-iodo-thiazol-2-ylamine
4-Ethyl-thiazol-2-ylamine (0.960 g, 7.49 mmol) was dissolved in 17 mL of CH2Cl2 and 3.5 mL of acetic acid and treated at 0° C. with iodine monochloride (7.86 mL of 1M in CH2Cl2, 1.05 eq.) and kept at this temperature for 1 h. Pouring onto crashed ice/Na2CO3, twofold extraction with ethyl acetate, washing with water and brine, drying over sodium sulfate, and evaporation to dryness afforded 1.67 g of the title compound as almost black viscous oil, sufficiently pure to be used for the next step.

reactant | 4-Ethyl-thiazol-2-ylamine | 7.49 mmol, 0.960 g | C(C)C=1N=C(SC1)N | C5H8N2S
reactant | acetic acid | 3.5 mL | C(C)(=O)O | C2H4O2
reactant | iodine monochloride | 1M, 7.86 mL, 1.05 eq. | ICl | ClI
solvent | CH2Cl2 | 17 mL | C(Cl)Cl | CH2Cl2
product | 4-Ethyl-5-iodo-thiazol-2-ylamine | 1.67 g | C(C)C=1N=C(SC1I)N | C5H7IN2S
